Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Shellfish
 
Attending: ___.
 
Chief Complaint:
Dyspnea, asthma exacerbation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ man with history of asthma, shellfish
allergy, back pain, obesity, who presented to the ED 1 hr after
discharge from the ED for asthma exacerbation. Pt felt improved
in ED, sent home with steroids and nebulizer, but upon arrival 
at
home, felt increasingly wheezy and short of breath with 
coughing,
so returned. He denies fevers or chills. Denies chest pain.
Denies tongue or lip swelling. Denies abdominal pain, vomiting,
diarrhea. Has never been hospitalized or intubated for asthma.
  
In the ED, initial vitals were:  Today 00:38 T 98 HR 109 BP
150/108 RR 40 O2 93% RA 
- Exam notable for: Moderately increased work of breathing,
diffuse expiratory wheezing. Speaking complete sentences. 
- Labs notable for:  0054 Venous gases: pH 7.33 pCO2 47 pO2 52
HCO3 26 BaseXS -1, trop<0.01, lytes wnl, cbc wnl (wbc 17 on one
check, possibly d/t steroids)
- Imaging was notable for:  CXR w/o acute intrathoracic process
- Patient was given: stacked duonebs from midnight until 9am,
methypred 125mg IV overnight, prednisone 40mg PO during the day,
mag sulfate 2gm IV, home meds (cetirazine, gabapentin).

Upon arrival to the floor, patient reported still feeling short 
of
breath, wheezy, "80% of my normal" breathing, and said his peak
flow was 250, while normally 550. He hasn't
had any known exposure to shellfish. Thinks he may be getting
sick as nose has started running, feels sneezy. No sick contacts
within family, however he traveled to a wedding in ___ last week
and spent time in ___.

His mother mentions that he had bigemy in the ED. He was not
lightheaded at the time, no experiencing palpitations or any
other symptom.

He provides further asthma-related hx: He has never been 
admitted
or intubated for his asthma. He describes exercise induced
asthma. He has had 5 or so courses of steroids for asthma, has
never used a steroid inhaler (never recommended). He uses
albuterol 2 puffs prior to exercise or prior to going into a
fire, which adequately controls symptoms. Adding on singulair
recently has helped considerably. His last exacerbation was 
about
6 months ago, for which he received duonebs and steroids in the
ED and was discharged home with resolution. Per OMR notes, in
___, pt saw his PCP who addressed his asthma, noting it was
preivously mild intermittent. Had a flare treated with inhaled
steroids, doing better but with allergic component remaining.
Singulair was added, with albuterol PRN, no inhaled steroids.

He also has a shellfish allergy with gastrointestinal upset and
swelling of the tongue. Has never had to use epipen, though
carries it.
 
Past Medical History:
Asthma- mild intermittent since ___
Allergic rhinitis
Shellfish allergy
Eczema
Former smoker <5 pack years total
low back pain
Obesity
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS:  24 HR Data (last updated ___ @ 1630)
    Temp: 98.1 (Tm 98.1), BP: 159/71, HR: 93, RR: 20, O2 sat:
97%, O2 delivery: RA  
GENERAL: man sitting upright with nasal cannula in no aparent
distress. Taking breaths between sentences, not words. 
HEENT: NCAT, sclera mildly injected 
CARDIAC: nl rate, reg rhythm, no m/r/g
LUNGS: Diffuse inspiratory and expiratory (more pronounced)
wheezes bilaterally. No rackles. Mild increased WOB only while
talking.
ABDOMEN: non-distended, non-tender.
EXTREMITIES: no cyanosis or pallor, no edema 
NEUROLOGIC: AAOx3, face symmetric, moves all 4 with purpose 
SKIN: warm, not hot; no rashes  

DISCHARGE PHYSICAL EXAM
24 HR Data (last updated ___ @ 716)
    Temp: 97.7 (Tm 98.4), BP: 139/81 (105-139/62-81), HR: 75
(75-91), RR: 18, O2 sat: 94% (94-96), O2 delivery: RA  
GENERAL: man sitting upright with nasal cannula in no aparent
distress. Taking breaths between sentences, not words. 
HEENT: NCAT, sclera mildly injected 
CARDIAC: nl rate, reg rhythm, no m/r/g
LUNGS: Diffuse musical expiratory wheezes bilaterally L>R. No
crackles. 
ABDOMEN: non-distended, non-tender.
EXTREMITIES: no cyanosis or pallor, no edema 
NEUROLOGIC: AAOx3, face symmetric, moves all 4 with purpose 
SKIN: warm, not hot; no rashes  

 
Pertinent Results:
ADMISSION LABS
___ 07:52PM BLOOD WBC-13.6* RBC-4.99 Hgb-16.0 Hct-45.8 
MCV-92 MCH-32.1* MCHC-34.9 RDW-12.8 RDWSD-42.2 Plt ___
___ 07:52PM BLOOD Neuts-89.4* Lymphs-5.4* Monos-4.3* 
Eos-0.5* Baso-0.1 Im ___ AbsNeut-12.16* AbsLymp-0.73* 
AbsMono-0.59 AbsEos-0.07 AbsBaso-0.02
___ 07:55PM BLOOD D-Dimer-241
___ 12:46AM BLOOD Glucose-148* UreaN-16 Creat-1.0 Na-140 
K-4.2 Cl-102 HCO3-24 AnGap-14
___ 12:46AM BLOOD cTropnT-<0.01
___ 07:52PM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD Calcium-9.7 Phos-3.3 Mg-1.8
___ 12:54AM BLOOD ___ pO2-52* pCO2-47* pH-7.33* 
calTCO2-26 Base XS--1
___ 12:54AM BLOOD O2 Sat-84

IMAGING
___ Chest XR
FINDINGS:
PA and lateral views of the chest provided.
There is no focal consolidation, effusion, or pneumothorax.  
There are no
signs of congestion or edema.  The cardiomediastinal silhouette 
is normal.
Imaged osseous structures are intact.  No free air below the 
right
hemidiaphragm is seen.
IMPRESSION: 
No acute intrathoracic process.

DISCHARGE LABS
___ 06:48AM BLOOD WBC-10.1* RBC-4.66 Hgb-14.6 Hct-43.8 
MCV-94 MCH-31.3 MCHC-33.3 RDW-13.2 RDWSD-45.1 Plt ___
___ 06:48AM BLOOD Plt ___
___ 06:48AM BLOOD Glucose-89 UreaN-16 Creat-0.9 Na-144 
K-3.9 Cl-104 HCO___ AnGap-___
 
Brief Hospital Course:
SUMMARY OF ADMISSION
====================
___ year old man with history of mild-moderate asthma on 
albuterol and singulair, allergic rhinitis, shellfish allergy, 
eczema, obesity, low back pain who presented to ED with 
worsening wheezing, shortness of breath and cough.  He was 
treated with stacked nebs, mag sulfate, and multiple doses of 
steroids with only minimal improvement.  He was admitted to 
Medicine for further treatment.

ACUTE ISSUES ADDRESSED
=====================
#Asthma exacerbation
#URI vs environmental allergies
The patient's asthma exacerbation was likely triggered by URI or 
environmental allergies given preceding rhinorrhea. No sick 
close contacts, however, had recently been traveling to a 
wedding and spent time in ___ in past 2 weeks. There 
was no evidence of pneumonia. Of note, he is a ___. He 
wears a respirator mask that is supposed to prevent particle 
inhalation when fighting fires, however, he reports sometimes 
developing cough and wheezing after fires. He takes 2 puffs of 
inhaler prior which is effective prevention typically. He also 
reports recently starting singulair, which he feels has helped. 
He uses albuterol 2 puffs before exercise or fire fighting, 
using it about ___ weekly.  While in the hospital, he received 
duonebs, albuterol and prednisone 60mg which improved his 
symptoms over the course of 48-72 hours.  He was discharged to 
complete a total 7 day course of prednisone 60 with a rapid 
taper as follows: 40 x 2 days, 20 x 2 days then stop.  He was 
started on controller medication fluticasone/salmeterol inhaler. 
 He will follow-up with PCP for further monitoring.

CHRONIC ISSUES ADDRESSED
=======================
 #Low back pain
Continue home gabapentin.  Of note, the patient reported taking 
large doses of ibuprofen the week leading up to his asthma 
exacerbation due to back pain. It is possible that this may have 
contributed to his asthma presentation. He was counseled on 
decreased NSAID use and prescribed a small tube of diclofenac 
gel to try a local, non-systemic NSAID treatment.

TRANSITIONAL ISSUES
=================
[] pred 60 for ___ course (___) with taper 
[] PCP/Pulm to discuss career-specific modifications to prevent 
future asthma attacks
[] Patient may have aspirin/NSAID induced asthma given this 
severe exacerbation in the setting of substantial ibuprofen use. 
Consider further investigation (e.g nasal polyposis, diagnostic 
aspirin challenge).
[] Follow up effect of diclofenac gel on back pain.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
2. Gabapentin 300 mg PO TID 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Cetirizine 10 mg PO DAILY 
5. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
6. Montelukast 10 mg PO DAILY 

 
Discharge Medications:
1.  diclofenac sodium 1 % topical BID 
Apply small amount to skin overlying area of back pain. Wash 
hands after use. 
RX *diclofenac sodium 1 % Apply to skin over the area of back 
pain. twice a day Refills:*0 
2.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
RX *fluticasone-salmeterol 113 mcg-14 mcg/actuation 1 puff 
inhaled twice a day Disp #*1 Inhaler Refills:*0 
3.  PredniSONE 10 mg PO ASDIR Duration: 6 Days 
Take 6 pills daily for 2 days. Then 4 for 2 days. Then 2 for 2 
days. 
Tapered dose - DOWN 
RX *prednisone 10 mg 0 tablet(s) by mouth once a day Disp #*24 
Tablet Refills:*0 
4.  albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN  
5.  Cetirizine 10 mg PO DAILY  
6.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
7.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
8.  Gabapentin 300 mg PO TID  
9.  Montelukast 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
ASTHMA EXACERBATION

SECONDARY DIAGNOSES:
BACK PAIN
SEASONAL ALLERGIES

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because you were having a 
severe asthma attack.  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- In the hospital we gave you inhaled medications to open your 
airways. We also gave oral steroids.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Use your Advair inhaler daily. Try to stay away from NSAIDS 
(ibuprofen/motrin, naproxen/aleve) as these may have contributed 
to your asthma attack. 
- Take tylenol and gabapentin for back pain, keeping tylenol 
below 4g/day. You can also use Voltaren gel as needed.
- Finish your steroid taper.
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___